US07456175B2
Ethyl-4-(4-nitro-pyridin-2-yl)-piperazine
A mixture of 2 g (13 mmol) 2-chloro-4-nitropyridine, 1.73 g (15 mmol) 1-ethyl-piperazine and 0.81 g (6 mmol) N,N-diisopropylethylamine (DIPEA) in 19 ml DMF and 20 ml water was heated to 100° C. for 24 h. The precipitate was filtered off and washed three times with 4 ml of water and dried for 24 h under vacuum to yield 2.03 g (68%) of the title compound as yellow oil (m/e): 236.7 (MH+; 100%).

reactant | 2-chloro-4-nitropyridine | 13 mmol, 2 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 1-ethyl-piperazine | 15 mmol, 1.73 g | C(C)N1CCNCC1 | C6H14N2
reactant | N,N-diisopropylethylamine | 6 mmol, 0.81 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 19 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
product | Ethyl-4-(4-nitro-pyridin-2-yl)-piperazine | 2.03 g, 68% | C(C)N1CCN(CC1)C1=NC=CC(=C1)[N+](=O)[O-] | C11H16N4O2
